US04976770
Methyl-6-Methyl-12H-Dibenzo[d,g][1,3]dioxocin-6-carboxylate
To a stirred solution of isopropyl cyclohexyl amine (2.92 ml, 0.0178 mol) in 15 ml of dry tetrahydrofuran (THF) under N2 at 0° C. is added n-BuLi (11.84 ml of 1.5 M in hexane). After stirring 15 minutes at 0° C., the solution is cooled to -65° C. and a solution of methyl 12H-dibenzo[d,g][1,3]dioxocin-6-carboxylate (4.0 g, 0.0148 mol) in 10 ml of THF is added dropwise over a period of 5 minutes. The solution is stirred at -65° C. for an additional 10 minutes and then added via syringe over a period of 2 minutes to a solution of methyl iodide (1.84 ml, 0.0246 mol) in 25 ml of dry dimethyl sulfoxide at room temperature After stirring for 30 minutes, the reaction mixture is diluted with 300 ml of CH2Cl2, washed with H2O, 1N HC1 and then brine, dried over MgSO4 and concentrated. The residue obtained is purified by dry column chromatography (elution with 1:4 ethyl acetate-hexanes) to afford 2 g of a yellow syrup. This material was subjected to HPLC purification (Waters 500, 2 columns, 4 cycles, elution with 1:7 ethylacetatehexanes) to afford 1.1 g (26 percent) of product as a clear sirup: IR (neat) 5.65, 6.3, 6.7, 6.85, 7.25 cm-1 ; 1H NMR (60 MHz, CDCl3) δ 1.36 (s, 3, CH3), 3.71 and 4.32 (2d, 2, CH2) 3.9 (s, 3, OCH3), 6.95-7.4 (m, 8, Ar--H).

reactant | isopropyl cyclohexyl amine | 0.0178 mol, 2.92 ml | C(C)(C)NC1CCCCC1 | C9H19N
reactant | n-BuLi | 1.5 M, 11.84 ml | [Li]CCCC
reactant | methyl 12H-dibenzo[d,g][1,3]dioxocin-6-carboxylate | 0.0148 mol, 4.0 g | C1=CC=CC=2OC(OC3=C(CC21)C=CC=C3)C(=O)OC | C16H14O4
reactant | methyl iodide | 0.0246 mol, 1.84 ml | CI | CH3I
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | Methyl-6-Methyl-12H-Dibenzo[d,g][1,3]dioxocin-6-carboxylate | 2 g | COC(=O)C1(OC2=C(CC3=C(O1)C=CC=C3)C=CC=C2)C | C17H16O4
